US08003649B2
The method of Example 12 was repeated using a mixture of 6-chloro-7-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (0.078 g, 0.33 mmol) and 1-(4-cyanobenzyl)-piperazine (0.199 g, 0.99 mmol) to give 4-((4-(7-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperazin-1-yl)methyl)benzonitrile (0.099 g, 75%).

reactant | 6-chloro-7-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.33 mmol, 0.078 g | ClC=1C(=CC=2N(N1)C(=NN2)C(F)(F)F)C | C7H4ClF3N4
reactant | 1-(4-cyanobenzyl)-piperazine | 0.99 mmol, 0.199 g | C(#N)C1=CC=C(CN2CCNCC2)C=C1 | C12H15N3
product | 4-((4-(7-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperazin-1-yl)methyl)benzonitrile | 0.099 g, 75% | CC1=CC=2N(N=C1N1CCN(CC1)CC1=CC=C(C#N)C=C1)C(=NN2)C(F)(F)F | C19H18F3N7
